US05594006
Preparation of 3,4-methylenedioxybenzylidenesuccinic acid
Dissolving 19.14 g of metal sodium in 400 ml of ethanol, 110.8 ml of diethyl succinate and 100 g of piperonal were added, and the solution was heated and refluxed for 3 hours. The reaction solution was concentrated in vacuo, and the residue was dissolved in 700 ml of water, and washed with 300 ml of diethyl ether. The water layer was stirred in ice, adjusted to pH 1 by concentrated hydrochloric acid, and extracted with 300 ml of diethyl ether. The diethyl ether layer was washed once with saturated brine, and dried over magnesium sulfate anhydride, and concentrated in vacuo. The obtained oily residue was dissolved by 181.4 g in 350 ml of ethanol, and 400 ml of 5N sodium hydroxide was added to stir overnight at room temperature. The reaction solution was concentrated in vacuo, and the residue was washed with 200 ml of diethyl ether. The water layer was stirred in ice, adjusted to pH 1 by concentrated hydrochloric acid, and extracted with 400 ml of ethyl acetate. The ethyl acetate layer was washed with saturated brine, dried over magnesium sulfate anhydride, and concentrated in vacuo. To the obtained residue, 300 ml of diethyl ether was added to solidify, and the captioned compound was obtained. Yield: 67.34 g.

reactant | sodium | [Na] | Na
reactant | piperonal | 100 g | C1=CC2=C(C=C1C=O)OCO2 | C8H6O3
reactant | diethyl succinate | 110.8 ml | C(CCC(=O)OCC)(=O)OCC | C8H14O4
solvent | ethanol | 400 ml | C(C)O | C2H6O
product | 3,4-methylenedioxybenzylidenesuccinic acid | C1OC=2C=C(C=C(C(=O)O)CC(=O)O)C=CC2O1 | C12H10O6
